US09029374B2
Titanium(IV) chloride (0.129 mL, 0.13 mmol) was added to a stirred suspension of 8-acetyl-N-(2-(dimethylamino)ethyl)-2-morpholino-4-oxo-4H-chromene-6-carboxamide (100 mg, 0.26 mmol), 4-fluoroaniline (0.042 mL, 0.44 mmol) and triethylamine (0.108 mL, 0.77 mmol) in DCM (2 mL) under nitrogen at 10° C. The resulting solution was stirred at 23° C. for 2 days. A saturated solution of sodium carbonate was added and extracted with DCM. The organic phase was washed with water, brine, dried over magnesium sulfate, and concentrated to afford the crude imine. The imine was diluted with DCM and MeOH, and acetic acid (0.030 mL, 0.52 mmol) and sodium cyanotrihydroborate (32.4 mg, 0.52 mmol) were added. The resulting solution was stirred at room temperature for 30 min. A solution of sodium carbonate was added and extracted with DCM. The organic phase was washed with water, brine, dried over magnesium sulfate, and concentrated to dryness. The crude product was purified by flash chromatography on silica gel eluting with 5% methanol in DCM followed by 5% methanolic ammonia (7 N) in DCM. The solvent was evaporated to dryness and a second purification was done on a preparative HPLC using a Waters X-Terra reverse-phase column (C-18, 5 microns silica, 19 mm diameter, 100 mm length, flow rate of 40 mL/minute) and decreasingly polar mixtures of water (containing 0.2% ammonium carbonate) and acetonitrile as eluent. The fractions containing the desired compound were evaporated to dryness to give a white solid which was triturated in MTBE then dried under vacuum to afford N-(2-(dimethylamino)ethyl)-8-(1-(4-fluorophenylamino)ethyl)-2-morpholino-4-oxo-4H-chromene-6-carboxamide (73.0 mg, 58.6%). Mass Spectrum: M+H+ 483. NMR Spectrum: (CDCl3) 1.60 (d, 3H), 2.25 (s, 6H), 2.50 (t, 2H), 3.45-3.58 (m, 6H), 3.79-3.89 (m, 4H), 4.02 (bs, 1H), 4.88-4.98 (m, 1H), 5.56 (s, 1H), 6.40 (dd, 2H), 6.81 (dd, 2H), 6.91 (bs, 1H), 8.27 (d, 1H), 8.34 (d, 1H).

reactant | 8-acetyl-N-(2-(dimethylamino)ethyl)-2-morpholino-4-oxo-4H-chromene-6-carboxamide | 0.26 mmol, 100 mg | C(C)(=O)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)NCCN(C)C | C20H25N3O5
reactant | 4-fluoroaniline | 0.44 mmol, 0.042 mL | FC1=CC=C(N)C=C1 | C6H6FN
reactant | triethylamine | 0.77 mmol, 0.108 mL | C(C)N(CC)CC | C6H15N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | acetic acid | 0.52 mmol, 0.030 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanotrihydroborate | 0.52 mmol, 32.4 mg | [B-]C#N.[Na+]
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
catalyst | Titanium(IV) chloride | 0.13 mmol, 0.129 mL | [Ti](Cl)(Cl)(Cl)Cl
product | N-(2-(dimethylamino)ethyl)-8-(1-(4-fluorophenylamino)ethyl)-2-morpholino-4-oxo-4H-chromene-6-carboxamide | 73.0 mg, 58.6% | CN(CCNC(=O)C=1C=C2C(C=C(OC2=C(C1)C(C)NC1=CC=C(C=C1)F)N1CCOCC1)=O)C | C26H31FN4O4
